US06869954B2
Preparation of 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-6-(2,4-difluorophenyl)-2-isobutyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 6-(2,4-difluorophenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and tert-butyl 1-piperazinecarboxylate were reacted to yield the title compound as a slightly yellow oil (yield: 97.5%).

reactant | 6-(2,4-difluorophenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC1=C(C=CC(=C1)F)C=1C=C(C(N(N1)CC(C)C)=O)COS(=O)(=O)C | C16H18F2N2O4S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-6-(2,4-difluorophenyl)-2-isobutyl-2H-pyridazin-3-one | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C(N(N=C(C1)C1=C(C=C(C=C1)F)F)CC(C)C)=O | C24H32F2N4O3
